US05559230
1-[4-(3-Carboxypropionylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.5 g) is dissolved in dimethylformamide (1 ml) and thereto is added dropwise diethyl cyanophosphate (0.25 g) under ice-cooling. The mixture is stirred at room temperature for 30 minutes and then cooled again with ice. Thereto are added dropwise a solution of diethylamine (0.11 g) in dimethylformamide (1 ml) and triethylamine (0.34 g). The mixture is stirred at room temperature for 16 hours. The solvent is distilled off under reduced pressure and water is added to the resulting residue. The mixture is extracted with dichloromethane. The organic layer is washed successively with diluted hydrochloric acid, water, saturated sodium hydrogen carbonate solution, water and saturated saline solution, and dried over magnesium sulfate. The solvent is distilled off under reduced pressure and the resulting residue is purified by silica gel column chromatography (eluent; ethyl acetate), and recrystallized from n-hexane/ethyl acetate to give 1-[4-(3-diethylaminocarbonylpropionylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.42 g) as colorless scales, m.p. 165°-167° C.

reactant | 1-[4-(3-Carboxypropionylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.5 g | C(=O)(O)CCC(=O)NC1=CC=C(C(=O)N2CCCCC3=C2C=CC=C3)C=C1 | C21H22N2O4
reactant | diethyl cyanophosphate | 0.25 g | P(=O)(OCC)(OCC)C#N | C5H10NO3P
reactant | diethylamine | 0.11 g | C(C)NCC | C4H11N
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.34 g | C(C)N(CC)CC | C6H15N
product | 1-[4-(3-diethylaminocarbonylpropionylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.42 g | C(C)N(C(=O)CCC(=O)NC1=CC=C(C(=O)N2CCCCC3=C2C=CC=C3)C=C1)CC | C25H31N3O3
